### ISSUE TITLE
"omit" doesn't omit typeclass assumptions

### ISSUE THREAD

**Issue by loefflerd** [leanprover/lean4#5595]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Once a typeclass variable has been declared, it's impossible to get rid of it. The `omit` keyword doesn't actually omit it from following declarations; it only cancels the effect of `include` so it isn't *always* included, but it is still "optionally" included.

This makes it very difficult to "refine" a typeclass variable from a general typeclass to a more specific one that extends it. Instead one ends up with multiple, unrelated instances of the base class on the same type, which can lead to craziness (of a sort that is extremely confusing for novices in particular).

### Context

This is a de-mathlibized version of an issue that arose in a discussion about typeclass variables in mathlib on zulip here: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Multiple.20overlapping.20typeclasses

### Steps to Reproduce

MWE:
```lean

class AddComm (R : Type) extends Add R where
  add_comm : ∀ a b : R, a + b = b + a

variable (R : Type) [Add R]

omit [Add R] in
variable [AddComm R] in

example (a b : R) : a + b = b + a := by
  exact AddComm.add_comm a b -- fails, wrong "+"
```

**Expected behavior:**

It would be nice if the `omit` declaration actually omitted the `Add R` typeclass from the example, so the statement was elaborated with _only_ the `AddComm R` instance in scope.

**Actual behavior:**

The elaborator has two instances of `Add` on R to choose from – the one from the explicitly declared `Add R` variable, and the one that's the base class of the `AddComm R` variable – and the one it chooses is the one we tried to omit. Hence we get a type mismatch error 
```
type mismatch
  AddComm.add_comm a b
has type
  @HAdd.hAdd R R R (@instHAdd R AddComm.toAdd) a b = b + a : Prop
but is expected to have type
  @HAdd.hAdd R R R (@instHAdd R inst✝¹) a b = b + a : Prop
```

### Versions

Tested with live.lean-lang.org, version `"4.12.0-nightly-2024-10-01"`

**Comment by fpvandoorn** [comment]
Note: with `theorem` the error message is different (but the issue is the same).
```lean
class AddComm (R : Type) extends Add R where
  add_comm : ∀ a b : R, a + b = b + a

variable (R : Type) [Add R]

omit [Add R] in
variable [AddComm R] in

-- error: cannot omit referenced section variable `inst✝¹`
theorem foo (a b : R) : a + b = b + a := by 
  exact AddComm.add_comm a b
```

**Comment by wwylele** [comment]
I'd like to contribute an example that I believe is caused by the same issue, but is more hidden as it doesn't immediately show any error/warning.

```
class A (T : Type) : Prop where
class B (T : Type) : Prop where
class C (T : Type) : Prop where

instance (priority := 100) A_of_B (T : Type) [B T] : A T where
instance (priority := 50) A_of_C (T : Type) [C T] : A T where

structure S (T : Type) where
  stuff : Nat
  h : A T

variable (T : Type) [B T]

omit [B T] in def foo [C T] : S T where
  stuff := 42
  h := inferInstance

#check foo -- shows `foo (T : Type) [B T] [C T] : S T`, which unexpectedly includes both [B T] and [C T]
```
(Tested on v4.29.0)

----

Edit: actually #9597 has an almost identical example
